US05240938
Step A: Preparation of 4-(bromomethyl)benzyl alcohol
A suspension of 4-bromomethylbenzoic acid (5.04 g, 23.3 mmol) in THF (30 mL) was cooled to 0° C. and treated with borane/THF (35 mmol). The ice bath was removed and the mixture was allowed to warm to room temperature and stirred for 1.5 hours. The excess borane was quenched first with MeOH, then with water. The reaction mixture was then concentrated in vacuo and redissolved in ethyl acetate. The ethyl acetate layer was washed with 5% HCl, water, NaHCO3, brine, dried (MgSO4), filtered, and evaporated in vacuo to afford 4.44 g (94%) of the titled product.

reactant | 4-bromomethylbenzoic acid | 23.3 mmol, 5.04 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | borane THF | 35 mmol | B.C1CCOC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(bromomethyl)benzyl alcohol | 4.44 g, 94% | BrCC1=CC=C(CO)C=C1 | C8H9BrO
